US08114872B2
4-(6-Fluoro-4-iodo-pyridin-3-ylmethyl)-morpholine
In a flask, combine 5-bromomethyl-2-fluoro-4-iodo-pyridine (6.13 g, 19.4 mmol), morpholine (3.38 g, 38.8 mmol) and dry CH3CN (100 mL) under nitrogen. Add N,N-diisopropylethylamine (6.76 mL, 38.80 mmol, 2 M THF solution). Heat at 81° C. for 2 h and cool to RT. Dilute with DCM and wash with water and aqueous saturated sodium chloride. Separate the organic layer from the aqueous layer and dry over magnesium sulfate. After filtration, concentrate in vacuo to give the title compound 6.23 g (100%). MS (ES) m/z 323 [M+1]+.

reactant | 5-bromomethyl-2-fluoro-4-iodo-pyridine | 19.4 mmol, 6.13 g | BrCC=1C(=CC(=NC1)F)I | C6H4BrFIN
reactant | morpholine | 38.8 mmol, 3.38 g | N1CCOCC1 | C4H9NO
reactant | CH3CN | 100 mL | CC#N | C2H3N
reactant | N,N-diisopropylethylamine | 38.80 mmol, 2 M, 6.76 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4-(6-Fluoro-4-iodo-pyridin-3-ylmethyl)-morpholine | 6.23 g, 100% | FC1=CC(=C(C=N1)CN1CCOCC1)I | C10H12FIN2O
